Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left-sided numbness
 
Major Surgical or Invasive Procedure:
None currently on file.
 
History of Present Illness:
HPI: 
___ is a ___ ___ man with a 
history of hypothyroidism, and hyperlipidemia who presents due 
to 4 days of left face, arm, and leg numbness. 

It started suddenly while ___ was at work as a ___. ___ was 
not engaged in any strenuous activity, just walking. ___ says it 
began in his face in the area of his jaw to his ear (V2-V3), 
then arm, then leg, over a period of minutes. ___ had no 
associated headache, weakness, coordination difficulties, etc. 
There was no facial droop or dysarthria. 

___ decided to come in today due to persistent symptoms -- which 
___ describes as "like having fallen asleep", but denies 
paresthesia -- however when asked to quantify repeatedly says it 
feels basically fine on the left side. ___ daughter reports that 
___ prone to minimizing, and ___ ultimately says it feels about
80% as sensitive on the left compared to the right. 

The symptoms have not changed in intensity since onset. 

 
Past Medical History:
PMH:

Problems  (Last Verified ___ by ___, MD):
COLON CANCER                                                    
diagnosed ___ ___, s/p surg and chemo. ___ saw    
Oncology in ___ who felt ___ is cured. Has GI Dr ___      
___ at ___.  Reports next scope will be ___.

HYPOTHYROIDISM                                                  
Unclear h/o ? hyperthyroid, pt says remotely ___ was treated w/  
iodine. Now has been hypothyroid, on levothyrox. TSH on 150mcg  
too low at 0.11 in ___. 125mcg a bit too weak. We had        
steadily increased levothyroxine from ~75mcg back in ___, up to
150mcg. On 150 mcg 6 days per wk, TSH remains nl 1.0 in ___

PRE-DIABETES                                                    
A1c improved ___ to 5.6%.                                    

GASTRITIS                                                       
h/o H pylori as well, s/p treatment. Gastritis, Continues on    
once daily PPI by outside gastroenterologist, Dr. ___ at ___.  ___ reported having EGD again ___.             

LOW MOOD                                                        
___ and again ___ low mood, suggest social work and       
monitor.                                                        

DYSLIPIDEMIA                                                    
___ ___ ASCVD 6.6%. ___ ___ ASCVD greater than    
7.5%. ___ ___ ASCVD still 7.9% but lipids improved, total
from 220s to 200s and LDL 160s to 140s. So continue to monitor  
closely, discuss statin over time.                              

BACK/NECK PAIN                                                  
mild intermittent MSK                                           

FATTY LIVER                                                     
___ ALT mildly high at 50. ___ normal. On vitamin E by    
outside  gastroenterologist.                                    

BORDERLINE B12 DEFICIENCY                                       
Borderline low B12 of 275 in ___ and 257 in ___. It     
could be secondary to a PPI. B12 levels w/ intermittent         
compliance to tabs are in low 300s ___.                      

ALLERGIC RHINITIS                                               
___ and again ___ on going sx, refer to allergist for     
consult.                                                        

ERECTILE DYSFUNCTION                                            
With increased Viagra of 100, control is effective. His baseline
testosterone was low normal at 375 with a slightly high SHBG and
low free testosterone.                                          

HEALTH MAINTENANCE                                              
Colon cancer -- scope ___ normal. Prostate cancer - we      
briefly discussed in past and I recommended against PSA.        
Vaccines -- Tdap ___. HIV and HCV- both neg in past.           

H/O APPENDECTOMY                                      ___      

H/O CHOLECYSTECTOMY                                             

 
Social History:
___
Family History:
No family history of clotting or bleeding disorders. 

 
Physical Exam:
ADMISSION EXAM:

Vitals: T:98.0   HR:84   BP:137/86   RR:18   SaO2:97%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. No sinus tenderness to palpation, percussion. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history in
___ without difficulty. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRLA. EOMI without nystagmus. VFF to
confrontation without extinction. 
V: Facial sensation 80% of normal on left face in V2-3
distribution. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: 80% of normal to PP, LT in left arm to shoulder, and
left leg to knee. Graphesthesia intact bilaterally.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            2      2     2
R   2            2      2     2

-Coordination: No intention tremor. No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

============================================================

DISCHARGE EXAM:

Vitals: T:98.5   HR:77   BP:136/84   RR:16   SaO2:94%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. No sinus tenderness to palpation, percussion. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history in 
___ without difficulty. Attentive, able to name ___ backward 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Able to name both high and low frequency objects.  Able 
to read without difficulty. No dysarthria. Able to follow both 
midline
and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRLA. EOMI without nystagmus. VFF to
confrontation without extinction. 
V: Facial sensation 80% of normal on left face in V2-3
distribution. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: Symmetric bilaterally to PP, LT on face as well as in 
all 4 extremities. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            2      2     2
R   2            2      2     2

-Coordination: No intention tremor. No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

================================================
 
Pertinent Results:
___ 10:22AM BLOOD Glucose-105* UreaN-14 Creat-0.8 Na-140 
K-4.4 Cl-101 HCO3-23 AnGap-16
___ 10:22AM BLOOD ALT-49* AST-45* AlkPhos-118 TotBili-1.1
___ 10:22AM BLOOD TSH-18*
___ 12:52PM BLOOD VitB12-501 Folate->20
___ 12:34PM BLOOD %HbA1c-5.6 eAG-114
___ 10:22AM BLOOD Triglyc-130 HDL-42 CHOL/HD-4.5 
LDLcalc-120
___ 10:22AM BLOOD TSH-18*
___ 12:52PM BLOOD Free T4-1.2
___ 10:22AM BLOOD Albumin-4.6 Calcium-9.3 Phos-3.2 Mg-2.1 
Cholest-188
___ 10:22AM BLOOD ALT-49* AST-45* AlkPhos-118 TotBili-1.1
___ 10:22AM BLOOD Glucose-105* UreaN-14 Creat-0.8 Na-140 
K-4.4 Cl-101 HCO3-23 AnGap-16
___ 10:22AM BLOOD ___ PTT-31.9 ___
___ 10:22AM BLOOD Plt ___
___ 10:22AM BLOOD Neuts-57.3 ___ Monos-6.1 Eos-3.5 
Baso-0.5 Im ___ AbsNeut-3.73 AbsLymp-2.11 AbsMono-0.40 
AbsEos-0.23 AbsBaso-0.03
___ 10:22AM BLOOD WBC-6.5 RBC-4.95 Hgb-15.4 Hct-45.1 MCV-91 
MCH-31.1 MCHC-34.1 RDW-13.2 RDWSD-44.0 Plt ___

====================================

MR ___ ___: 
1. No acute intracranial abnormality. 
2. Chronic microangiopathy changes.  Global cerebral volume 
loss. 
3. Pansinusitis. 

CTA Head and Neck:  
No evidence of masses, hemorrhage or infarction. 
Normal appearance of the head and neck arteries. 
Extensive paranasal sinus inflammatory changes. 

====================================

 
Brief Hospital Course:
SUMMARY: ___ is a ___ ___ man 
with hypothyroidism and hyperlipidemia who presented with 4 days 
of mild left hemibody numbness. His initial examination was 
notable for mildly decreased sensation to light touch and 
pinprick of the left face V2-V3, left arm to shoulder. The left 
leg was not involved apart from a small patch in the proximal 
thigh. ___ was admitted for stroke rule out, and MRI did NOT 
reveal evidence of stroke. Symptoms resolved by the following 
morning. Overall, etiology for symptoms is unclear, possibly 
consistent with a complex migraine, cervical spondylosis, or 
insomnia ___ had been reporting only ___ hours of sleep for last 
several weeks).

===========================
HOSPITAL COURSE BY PROBLEM: 
#Left-sided mildly decreased sensation- His initial neurologic 
examination was notable for mildly decreased sensation to light 
touch and pinprick of the left face V2-V3, left arm to shoulder, 
and in the left proximal leg. It was not consistent with a 
thalamic pattern of sensory loss (which would involve the entire 
face, arm, and leg). ___ had no other neurologic findings on 
exam. ___ was admitted to the stroke service, where ___ had an MRI 
that did NOT reveal stroke and was negative for an acute 
process. ___ had a CTA head/neck to evaluate for vascular 
disease, which was unrevealing.  His stroke risk factors 
included hemoglobin A1c 5.6, LDL 120. Given his history of B12 
deficiency, ___ had a vitamin B12 level checked which was 501. 
Given history of hypothyroidism, thyroid studies were checked, 
notable for TSH 18 (elevated), free T4 1.2. ___ also had 
anti-treponemal Ab to rule out syphilis which was pending at 
discharge.  Symptoms resolved by the following morning. 

#Hypothyroidism: ___ has a history of hypothyroidism and is on 
levothyroxine 150mcg/day, 6 days/week. Given history of 
hypothyroidism, thyroid studies were checked, notable for TSH 18 
(elevated), free T4 1.2. 

#Sinusitis: During the CTA head/neck, ___ was found to have 
thickening with mucosal enhancement of the right maxillary 
sinus, thickening of left sphenoid and bilateral ethmoid air 
cells, and retention cyst in the right sphenoid, which could 
represent an acute on chronic sinusitis. Apart from fatigue, ___ 
did not complain of worsening sinus symptoms and ___ was recently 
treated for sinusitis, therefore further treatment was not done. 
However, this is something that can be followed up with his 
primary care physician. 

=================
TRANSITIONAL ISSUES:
[ ] PCP: ___ check repeat TSH, free T4 
[ ] PCP: ___ may need be prescribed an antidepressant, will see a 
psychologist next week. 
[ ] PCP: ___ has insomnia. been sleeping only 3 hours every 
night. Suggested starting with Melatonin. ___ consider an 
additional agent like Trazodone. 

=================

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 150 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Viagra (sildenafil) 100 mg oral DAILY:PRN 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Vitamin E Dose is Unknown  PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient left sided sensory symptoms 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after having numbness on the 
left side of your body. To look into your symptoms, we did an 
MRI of your ___ which did NOT reveal any evidence of a stroke. 
We also looked into risk factors for stroke, and you did not 
have signs of diabetes and your cholesterol was within the 
normal range.  We also checked a number of labs to look into 
other causes for transient sensory changes, which was noraml.  
Fortunately, your symptoms improved well on their own, and your 
neurologic exam was normal. 

One thing that came up was your insomnia. If you are not 
sleeping well, this can definitely cause transient neurologic 
symptoms. To help with your sleep, you can try taking Melatonin 
over the counter (5mg per night), and if this does not work you 
can talk with your primary care physician about being started on 
something else, such as Trazodone.

Moving forward, it will be important to follow up with your 
primary care physician. It will also be important to have some 
repeat labs drawn when you see your primary care physician. 

It was a pleasure taking care of you.

Sincerely,
Your ___ Care team 
 
Followup Instructions:
___